US05679854
Preparation of (E)-2-(Fluoromethylene)-4-(p-fluorophenyl)butan-1-ol
Add methanesulfonic acid (47.7 kg, 496 mol) to a toluene solution of ethyl 2-(difluoromethyl)-2-(t-butoxycarbonyl)-4-(p-fluorophenyl)butyrate as prepared in Example 3.1 at a temperature of 40° C.-50° C. After 3 to 6 hours, cool the reaction to ambient temperature. Add toluene (91 kg) and water (421 kg) and stir for 30 minutes. Separate the aqueous layer. Add to the organic layer a 20% by weight solution of sodium chloride in water (420 kg) and stir for 30 minutes. Separate the layers to give the title compound as a solution in toluene.

reactant | methanesulfonic acid | 496 mol, 47.7 kg | CS(=O)(=O)O | CH4O3S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl 2-(difluoromethyl)-2-(t-butoxycarbonyl)-4-(p-fluorophenyl)butyrate | FC(C(C(=O)OCC)(CCC1=CC=C(C=C1)F)C(=O)OC(C)(C)C)F | C18H23F3O4
reactant | toluene | 91 kg | C1(=CC=CC=C1)C | C7H8
solvent | water | 421 kg | O | H2O
product | (E)-2-(Fluoromethylene)-4-(p-fluorophenyl)butan-1-ol | F\C=C(\CO)/CCC1=CC=C(C=C1)F | C11H12F2O
